US05654307
Crude 4-amino nicotinic acid (2.72 g, 11.4 mmol) in formamide (20 mL) is heated to 170° C. for 12 h. The volatiles are distilled out under reduced pressure (0.8 mm Hg). The residual solid is then purified on a medium pressure silica gel column, eluting with 10% MeOH in CHCl3 to give 3H-pyrido[4,3-d]pyrimidin-4-one (780 mg, 47%) as a whitish yellow solid. 1H NMR (DMSO) δ 12.64 (1H, brs), 9.28 (1H, s), 8.83 (1H, d, J=5.5 Hz), 8.30 (1H, s), 7.58 (1H, d, J=5.8 Hz).

reactant | 4-amino nicotinic acid | 11.4 mmol, 2.72 g | NC1=CC=NC=C1C(=O)O | C6H6N2O2
reactant | formamide | 20 mL | C(=O)N | CH3NO
product | 3H-pyrido[4,3-d]pyrimidin-4-one | 780 mg, 47% | N1=CNC(C2=C1C=CN=C2)=O | C7H5N3O
